US04178449
7-Phenylpyrazolo[1,5-a]pyrimidine
A reaction mixture of 5.25 g. of 3-dimethylaminoacrylophenone [von H. Meerwein et al., Annalen der Chemie, Band 641, 1-39, (1961)] and 2.50 g. of 3-aminopyrazole in 25 ml. of glacial acetic acid is refluxed for 3.5 hours, cooled overnight and evaporated to a thick yellow oil. This oil is dissolved in methylene chloride, washed with a saturated aqueous solution of sodium bicarbonate, dried over sodium sulfate and then passed through a sintered glass funnel or a chromatographic column packed in vacuo with hydrous magnesium silicate. Additional methylene chloride is passed through the funnel (column). The effluent is refluxed on a steam bath. The gradual addition of hexane produces crystals. The crystallization from methylene chloride with hexane is repeated giving the desired product, m.p. 72°-73° C.

reactant | 3-dimethylaminoacrylophenone | CN(C=CC(=O)C1=CC=CC=C1)C | C11H13NO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Phenylpyrazolo[1,5-a]pyrimidine | C1(=CC=CC=C1)C1=CC=NC=2N1N=CC2 | C12H9N3
